data/rdb19/train.csv
rxn,smiles,ea
3750,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28].[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:17]([H:24])([H:25])[H:26],82.25917436275631
4125,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:25]1([H:33])[C:24]([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]1[H:34],38.96203333878657
4312,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])([H:27])([H:28])[H:29].[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[H:30],80.55872483015992
1808,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],60.98280696634902
2543,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34].[H:16][O:21][C:20]([H:27])([H:28])[H:29],47.9522209688439
4725,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([H:2])([H:3])([H:4])[C:10]1([H:24])[C:9]([C:7]([C:6]([C:5]([H:15])([H:16])[H:17])([H:18])[H:19])([C:8]([H:21])([H:22])[H:23])[H:20])[C:14]([H:28])=[C:13]([H:27])[C:12]([H:26])=[C:11]1[H:25],20.08317256596638
2307,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[C:12]([C:10]([O:9][C:8]([H:15])([H:16])[H:17])=[O:11])([C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:5])([H:6])[H:7],17.275119135389104
1512,[C:10]([C:11]([C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:23])([H:20])([H:21])[H:22].[H:6][H:24].[O:1][C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7],66.82936511631124
4379,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[N:21]([C:22](=[O:23])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][H:27])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],54.94704710948281
4845,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]([H:6])[H:7])([H:8])([H:9])[H:10].[H:11][C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26],76.46900211059256
